US07439249B2
[6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-ylmethyl]-carbamic acid benzyl ester (0.80 g, 1.95 mmol) is dissolved in THF (2 ml). Cooled to −78° C. 1 M TBAF solution in THF (3.90 ml) is added. The reaction mixture is concentrated and the residue is purified by column chromatography (30% ethyl acetate in hexanes) to obtain (6-Hydroxy-1H-indol-2-ylmethyl)-carbamic acid benzyl ester.

reactant | [6-(tert-Butyl-dimethyl-silanyloxy)-1H-indol-2-ylmethyl]-carbamic acid benzyl ester | 1.95 mmol, 0.80 g | C(C1=CC=CC=C1)OC(NCC=1NC2=CC(=CC=C2C1)O[Si](C)(C)C(C)(C)C)=O | C23H30N2O3Si
reactant | TBAF | 1 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3.90 ml | C1CCOC1 | C4H8O
product | (6-Hydroxy-1H-indol-2-ylmethyl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC=1NC2=CC(=CC=C2C1)O)=O | C17H16N2O3
